US09388189B2
a) N-(3-Methoxy-5-nitrophenyl)methanesulfonamide
3-Methoxy-5-nitroaniline (2 g, 11.89 mmol) was treated with methanesulfonyl chloride (1.01 ml, 13.08 mmol) according to the method described in Preparation 15b to give 3 g (100% yield) of the title compound. Purity 97%.

reactant | 3-Methoxy-5-nitroaniline | 11.89 mmol, 2 g | COC=1C=C(N)C=C(C1)[N+](=O)[O-] | C7H8N2O3
reactant | methanesulfonyl chloride | 13.08 mmol, 1.01 ml | CS(=O)(=O)Cl | CH3ClO2S
product | N-(3-Methoxy-5-nitrophenyl)methanesulfonamide | 3 g, 100% yield | COC=1C=C(C=C(C1)[N+](=O)[O-])NS(=O)(=O)C | C8H10N2O5S
